US05480884
1-Methyl-2-veratrylamino-5-methoxycarbonylpyrimidinium hydroxide
A mixture of 2.62 g .(8.6 mmol) of 2-veratrylamino-5-methoxycarbonylpyrimidine and 3.28 ml (4 eq) of dimethyl sulfate in 60 ml of anhydrous THF is refluxed for forty-eight hours. The mixture is extracted with ethyl acetate and water. Purification on silica gel (eluent: 3% MeOH/CH2Cl2 /NH3 in aqueous solution at 33%, 5.5 ml/100) of the oil resulting from evaporation of the aqueous phases gives 2.2 g of salt (yield: 76%).

reactant | 2-veratrylamino-5-methoxycarbonylpyrimidine | 8.6 mmol | C(C1=CC(OC)=C(OC)C=C1)NC1=NC=C(C=N1)C(=O)OC | C15H17N3O4
reactant | dimethyl sulfate | 3.28 ml, 4 eq | S(=O)(=O)(OC)OC | C2H6O4S
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 1-Methyl-2-veratrylamino-5-methoxycarbonylpyrimidinium hydroxide | 2.2 g, yield: 76% | [OH-].C[N+]1=C(N=CC(=C1)C(=O)OC)NCC1=CC(OC)=C(OC)C=C1 | InChI=1S/C16H19N3O4.H2O/c1-19-10-12(15(20)23-4)9-18-16(19)17-8-11-5-6-13(21-2)14(7-11)22-3;/h5-7,9-10H,8H2,1-4H3;1H2
